US06946467B2
3-Fluoro-4-(2-hydroxyethyl)pyridine (4.0 g, 28.3 mmol) and triethylamine (8.3 mL, 60 mmol) were dissolved in CH2Cl2 (40 mL) and cooled to 0° C. To this solution, methanesulfonyl chloride (2.0 mL, 31.2 mmol) was added dropwise. The mixture stirred at 0° C. for 1 h. The mixture was diluted with water, and the layers separated. The water layer was extracted with CH2Cl2. The organic layers were combined, washed with brine, dried (Na2SO4), filtered, and concentrated under vacuum to provide 3-fluoro-4-(2-methanesulfonyloxyethyl)pyridine (5.2 g, 83%) as a pink oil.

reactant | 3-Fluoro-4-(2-hydroxyethyl)pyridine | 28.3 mmol, 4.0 g | FC=1C=NC=CC1CCO | C7H8FNO
reactant | triethylamine | 60 mmol, 8.3 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 31.2 mmol, 2.0 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-fluoro-4-(2-methanesulfonyloxyethyl)pyridine | 5.2 g, 83% | FC=1C=NC=CC1CCOS(=O)(=O)C | C8H10FNO3S
